US07332508B2
4-(5-Biphenyl-4-yl[1,2,4]oxadiazol-3-yl)-1-(1-ethylpropyl)piperidine
The title compound was prepared by a similar procedure to that described in Example 35a, starting from 1-(1-ethylpropyl)-N-hydroxypiperidine-4-carboxamidine and 4-phenylbenzoyl chloride.

reactant | 1-(1-ethylpropyl)-N-hydroxypiperidine-4-carboxamidine | C(C)C(CC)N1CCC(CC1)C(=N)NO | C11H23N3O
reactant | 4-phenylbenzoyl chloride | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
product | 4-(5-Biphenyl-4-yl[1,2,4]oxadiazol-3-yl)-1-(1-ethylpropyl)piperidine | C1(=CC=C(C=C1)C1=NC(=NO1)C1CCN(CC1)C(CC)CC)C1=CC=CC=C1 | C24H29N3O
